US08957205B2
N-[[1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninal
Under an argon gas atmosphere, 453 mg (3.5 mmol) of N,N-diisopropylethylamine was added dropwise to a solution of 658 mg (3.5 mmol) of sulfur trioxide-pyridine complex in 10 ml of anhydrous dimethyl sulfoxide and 5 ml of anhydrous methylene chloride under ice-cooling, and the mixture was stirred for 15 minutes. Further, under ice-cooling, a solution of 319 mg (0.58 mmol) of N-[[1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol in 3 ml of anhydrous dimethyl sulfoxide was added to the reaction solution, and the mixture was stirred at the same temperature for 2 hours. The reaction solution was poured into ice-water, and the mixture was extracted with ethyl acetate twice. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and then saturated brine and dried with anhydrous magnesium sulfate. Thereafter, the solvent was distilled off under reduced pressure. 20 ml of diisopropyl ether was added to the residue, and the mixture was stirred at room temperature for 18 hours. The obtained crystal was collected by filtration to give 203 mg (64%) of the title compound.

reactant | N,N-diisopropylethylamine | 3.5 mmol, 453 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-[[1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol | 0.58 mmol, 319 mg | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](CCSC)CO | C27H39N5O3S2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | N-[[1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninal | 203 mg, 64% | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](CCSC)C=O | C27H37N5O3S2
